US07285563B2
N-(1-Methylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from 1-methylisoquinolin-5-amine (Description 68) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to the procedure of Description 61. m/z (ES+) 360 (M+H)+.

reactant | 1-methylisoquinolin-5-amine | CC1=NC=CC=2C(=CC=CC12)N | C10H10N2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-(1-Methylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea | CC1=NC=CC2=C(C=CC=C12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C19H16F3N3O
